US04395414
7-Chloro-3-(4-chlorophenyl)-1,2-dihydro-2-oxoquinoline
17.5 g of 2,4-dichlorobenzaldehyde, 22.4 g of 2-(4-chlorobenzyl)-4,4-dimethyl-2-oxazoline, 1 g of sodium bisulphate, 50 ml of 1-methyl-2-pyrrolidinone and 30 ml of xylene are heated at a bath temperature of 170° to 220° C., using a water separator, until 3.2 ml of water and 20 ml of xylene have been separated off. After cooling the reaction mixture, methanol is added and the title compound (m.>300° C.) is collected by filtration (yield: 24.8 g).

reactant | 2,4-dichlorobenzaldehyde | 17.5 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | 2-(4-chlorobenzyl)-4,4-dimethyl-2-oxazoline | 22.4 g | ClC1=CC=C(CC=2OCC(N2)(C)C)C=C1 | C12H14ClNO
reactant | sodium bisulphate | 1 g | S([O-])(O)(=O)=O.[Na+]
reactant | 1-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-Chloro-3-(4-chlorophenyl)-1,2-dihydro-2-oxoquinoline | ClC1=CC=C2C=C(C(NC2=C1)=O)C1=CC=C(C=C1)Cl | C15H9Cl2NO
